US05254595
Following the procedure of Example 32, and reacting epichlorohydrin with 4-hydroxy-2-methylbenzofuran, 4-hydroxybenzofuran, 5-hydroxybenzofuran, 5-hydroxy-2-methylbenzofuran, 6-hydroxy-3-methylbenzofuran or 7-hydroxybenzofuran, in the presence of piperidine, dissolving the thus obtained raw epoxide in absolute ethanol and adding thereto an ethanol solution of 2-aminotetralin, the following compounds are obtained respectively

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 4-hydroxy-2-methylbenzofuran | OC1=CC=CC2=C1C=C(O2)C | C9H8O2
reactant | 4-hydroxybenzofuran | OC1=CC=CC2=C1C=CO2 | C8H6O2
reactant | 5-hydroxybenzofuran | OC=1C=CC2=C(C=CO2)C1 | C8H6O2
reactant | 5-hydroxy-2-methylbenzofuran | OC=1C=CC2=C(C=C(O2)C)C1 | C9H8O2
reactant | 6-hydroxy-3-methylbenzofuran | OC1=CC2=C(C(=CO2)C)C=C1 | C9H8O2
reactant | 7-hydroxybenzofuran | OC1=CC=CC=2C=COC21 | C8H6O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 2-aminotetralin | NC1CC2=CC=CC=C2CC1 | C10H13N
